US09029189B2
Step 2.1. Di-(2-aminopropyl)amine (VII)
Into a 500 mL flask, 180 mL of de-ionized water was placed. To this, 120 mL of 1,2-diaminopropane (1.39 mol) was added and a condenser was fitted to the flask. 50 mL (0.507 mol) of hydrogen chloride (37%) was added dropwise and the reaction allowed to subside before adding 10 mL of 2-methylaziridine (0.142 mol). The solution was then heated to 110° C. for 25 hours. The solvent and excess 1,2-diaminopropane were then removed by vacuum distillation. The crude product was then distilled under vacuum (approximately 40 torr) with a boiling point of 110° C. The yield was 24% with 4.541 g obtained. The purity was determined by NMR, showing multiplets at 2.71, 2.35 and 0.91 ppm which corresponded to those in a commercial sample. There was an additional peak at 2.11 ppm which may be due to a structural isomer of the product.

reactant | 1,2-diaminopropane | 1.39 mol, 120 mL | NCC(C)N | C3H10N2
reactant | hydrogen chloride | 0.507 mol, 50 mL | Cl | ClH
reactant | 2-methylaziridine | 0.142 mol, 10 mL | CC1NC1 | C3H7N
solvent | water | 180 mL | O | H2O
product | Di-(2-aminopropyl)amine | yield was 24% | NC(CNCC(C)N)C | C6H17N3
